US08633175B2
3′-(2-aminoethyl)-4-biphenylcarboxamide
To a solution of 1,1-dimethylethyl {2-[4′-(aminocarbonyl)-3-biphenylyl]ethyl}-carbamate (1.81 g, 0.005 mol) in CH2Cl2 (50 mL) at room temperature was added trifluoroacetic acid (15 mL) in one portion. After 1 hr the mixture was cooled in an ice bath and 1M K2CO3 (200 mL) and chloroform were added. The aqueous phase was extracted several times with mixtures of ethyl acetate, dichloromethane and chloroform. Residual solids were collected by filtration, affording the title compound as a white solid; LC/MS (method A) 1.04 min; m/z 241 (M+H). Combined organic extracts were dried over Na2SO4 and concentrated in vacuo affording an additional batch of the title compound (combined with the solid collected above). This product was used without further purification.

reactant | 1,1-dimethylethyl {2-[4′-(aminocarbonyl)-3-biphenylyl]ethyl}-carbamate | 0.005 mol, 1.81 g | NC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CCNC(OC(C)(C)C)=O | C20H24N2O3
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | K2CO3 | 1M, 200 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3′-(2-aminoethyl)-4-biphenylcarboxamide | NCCC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)N | C15H16N2O
